US07943654B2
5-(1-Methyl-1-phenyl-ethylcarbamoyl)-3-(2-nitro-benzoylamino)-thieno[2,3-c]pyrazole-1-carboxylic Acid ethyl Ester
To a solution of 1.995 g (4.93 mmol) of 3-(2-Nitro-benzoylamino)-thieno[2,3-c]pyrazole-1,5-dicarboxylic acid 1-ethyl ester in toluene (35 mL) a total volume of 7.5 ml of SOCl2 was added in a step-wise manner. The suspension so obtained was heated at 80° C. for 7 hours and then evaporated to dryness. The solid was taken up with toluene and dried up twice. Next the solid was dissolved in dichloromethane (30 mL) and added drop-wise to a solution of 1.334 g (9.86 mmol) of cumylamine and DIEA (3.37 mL, 19.73 mmol) in dichloromethane (50 mL) at 0° C. The mixture was stirred and allowed to reach room temperature overnight, washed with 1 N HCl, brine, water, dried up with Na2SO4 and evaporated to dryness. The crude was then purified by silica gel chromatography (flash chromatography column) eluting with dichloromethane-methanol 99:1. The titled compound was so isolated as a colourless solid (1.80 g 70%).

reactant | 3-(2-Nitro-benzoylamino)-thieno[2,3-c]pyrazole-1,5-dicarboxylic acid 1-ethyl ester | 4.93 mmol, 1.995 g | C(C)OC(=O)N1N=C(C2=C1SC(=C2)C(=O)O)NC(C2=C(C=CC=C2)[N+](=O)[O-])=O | C16H12N4O7S
reactant | SOCl2 | O=S(Cl)Cl | Cl2OS
reactant | cumylamine | 9.86 mmol, 1.334 g | C(C)(C)(C1=CC=CC=C1)N | C9H13N
reactant | DIEA | 19.73 mmol, 3.37 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | toluene | 35 mL | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 5-(1-Methyl-1-phenyl-ethylcarbamoyl)-3-(2-nitro-benzoylamino)-thieno[2,3-c]pyrazole-1-carboxylic Acid ethyl Ester | C(C)OC(=O)N1N=C(C2=C1SC(=C2)C(NC(C)(C2=CC=CC=C2)C)=O)NC(C2=C(C=CC=C2)[N+](=O)[O-])=O | C25H23N5O6S
